US09403798B2
3-Benzyl-6-(4-fluorophenyl)-3-azabicyclo[3.1.0]hexane
To a tetrahydrofuran solution (40 mL) of 3-benzyl-6-(4-fluorophenyl)-3-azabicyclo[3.1.0]hexan-2-one (956 mg, 3.40 mmol) synthesized in Reference Synthesis Example 238, lithium aluminum hydride (258 mg, 6.80 mmol) was added at 0° C. and the resultant mixture was stirred under reflux by heating for 30 minutes. After completion of the reaction, 1 M sodium hydroxide aqueous solution was added to the reaction solution at 0° C. and extraction from the resultant mixture with dichloromethane was performed. The organic layer was purified by silica gel (amino-based) column chromatography (hexane/ethyl acetate=15/1→10/1) to obtain the title compound (593 mg, yield 66%).

reactant | 3-benzyl-6-(4-fluorophenyl)-3-azabicyclo[3.1.0]hexan-2-one | 3.40 mmol, 956 mg | C(C1=CC=CC=C1)N1C(C2C(C2C1)C1=CC=C(C=C1)F)=O | C18H16FNO
reactant | lithium aluminum hydride | 6.80 mmol, 258 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 3-Benzyl-6-(4-fluorophenyl)-3-azabicyclo[3.1.0]hexane | 593 mg, yield 66% | C(C1=CC=CC=C1)N1CC2C(C2C1)C1=CC=C(C=C1)F | C18H18FN
